US07214681B2
(E)-tert-Butyl 4-[2-carboxy-2-(4-methanesulfonylphenyl)vinyl]piperidine-1-carboxylate (Preparation 35, 3.17 g, 7.7 mmol) was condensed with thiazol-2-ylamine (2.32 g, 23.2 mmol), employing the procedure described in EXAMPLE 65, to give (E)-tert-butyl 4-[2-(4-methanesulfonylphenyl)-2-(thiazol-2-ylcarbamoyl)vinyl]piperidine-1-carboxylate: m/z (ES+)=492.2 [M+H]+. TFA (20 mL) was added to a stirred solution of the abovementioned carbamate (1.40 g, 2.8 mmol) in CH2Cl2 (20 mL). After 2 h, the solution was concentrated in vacuo. The residue was dissolved in H2O, then the solution was washed with EtOAc. The aqueous layer was concentrated to furnish the trifluoroacetate salt of (E)-2-(4-methanesulfonylphenyl)-3-piperidin-4-yl-N-thiazol-2-ylacrylamide: m/z (ES+)=392.1 [M+H]+. A stirred solution of imidazole (102 mg, 1.5 mmol) in anhydrous DMF (1 mL) was treated with Me3SiCl (114 μL, 0.9 mmol). After 20 min, the above trifluoroacetate salt (150 mg, 0.3 mmol) was added. The mixture was stirred for 16 h, before being partitioned between CH2Cl2 and 1M HCl. The organic layer was dried (MgSO4), filtered, concentrated, and flash chromatographed (EtOAc-MeOH, 97:3 to 19:1). Recrystallisation (EtOAc) of the residue gave the title compound: RTA=3.05 min; m/z (ES+)=420.2 [M+H]+.

reactant | (E)-tert-Butyl 4-[2-carboxy-2-(4-methanesulfonylphenyl)vinyl]piperidine-1-carboxylate | 7.7 mmol, 3.17 g | C(=O)(O)/C(=C/C1CCN(CC1)C(=O)OC(C)(C)C)/C1=CC=C(C=C1)S(=O)(=O)C | C20H27NO6S
reactant | thiazol-2-ylamine | 23.2 mmol, 2.32 g | S1C(=NC=C1)N | C3H4N2S
product | (E)-tert-butyl 4-[2-(4-methanesulfonylphenyl)-2-(thiazol-2-ylcarbamoyl)vinyl]piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)\C(=C/C1CCN(CC1)C(=O)OC(C)(C)C)\C(NC=1SC=CN1)=O | C23H29N3O5S2
